US06661023B2
Preparation of 4-phenyl-2-aminoquinoline:
Acetonitrile (150 mL) was heated to reflux for 30 minutes in the presence of potassium hydroxide (14.2 g, 254 mmol). 2-amino-benzophenone (10.0 g, 50.7 mmol) in acetonitrile (165 mL) was added to the reaction mixture. After heating to reflux overnight, the mixture was cooled to room temperature, and the resulting solid was filtered. HCl (1.0 M, 100 mL) was added to the solution, and the resulting solid was filtered. The solids were combined, dissolved in ethyl acetate, dried over magnesium sulfate, and filtered. The volatile components were removed with a rotary evaporator, and the solid was recrystallized from ethyl acetate and heptane.

reactant | potassium hydroxide | 254 mmol, 14.2 g | [OH-].[K+]
reactant | 2-amino-benzophenone | 50.7 mmol, 10.0 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | acetonitrile | 165 mL | C(C)#N | C2H3N
reactant | Acetonitrile | 150 mL | C(C)#N | C2H3N
product | 4-phenyl-2-aminoquinoline | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)N | C15H12N2
